US08058431B2
1) 1H-Thieno(3,2-d)(1,3)oxazine-2,4-dione
40 g (250 mmol) 3-Amino-thiophene-2-carboxylic acid methyl ester were suspended in 250 ml water with 21.0 g (374 mmol) potassium hydroxide. The mixture was boiled in a microwave oven (500 W) for 30 min and afterwards it was cooled to 0° C. A solution of 37.1 g (125 mmol) triphosgene in 200 ml toluene was added drop wise and the reaction mixture stirred for 2 h at room temperature. The residue was isolated by filtration. The product was washed with water and sodium bicarbonate solution. For further purification it can be washed with ethyl ether and methanol after drying.

reactant | 3-Amino-thiophene-2-carboxylic acid methyl ester | 250 mmol, 40 g | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | potassium hydroxide | 374 mmol, 21.0 g | [OH-].[K+]
reactant | triphosgene | 125 mmol, 37.1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | water | 250 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1H-Thieno(3,2-d)(1,3)oxazine-2,4-dione | N1C(OC(C2=C1C=CS2)=O)=O | C6H3NO3S
